US07582625B2
A5c) 1-methyl-4-(4-methyl-piperidin-4-yl)-piperazine
A suspension of 0.99 g (3.27 mmol) 1-(1-benzyl-4-methyl-piperidin-4-yl)-4-methyl-piperazine and 200 mg 10% Pd/C in 25 mL MeOH was hydrogenated at 50° C. and 50 psi hydrogen pressure for 2 h. To complete the reaction a further 200 mg catalyst were added and the reaction mixture was hydrogenated for a further 22 h at 60° C. and 50 psi hydrogen pressure. The catalyst was filtered off and the filtrate evaporated to dryness. The product was reacted further without purification.

reactant | 1-(1-benzyl-4-methyl-piperidin-4-yl)-4-methyl-piperazine | 3.27 mmol, 0.99 g | C(C1=CC=CC=C1)N1CCC(CC1)(C)N1CCN(CC1)C | C18H29N3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 1-methyl-4-(4-methyl-piperidin-4-yl)-piperazine | CN1CCN(CC1)C1(CCNCC1)C | C11H23N3
